US08937060B2
4-(3,6-Difluoro-2-methoxy-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (D52)
2-Bromo-1,4-difluoro-3-methoxy-benzene (0.7 g, 3.139 mmol) [C.A.S. 1208076-11-2] was added to a stirred solution of 3,6-dihydro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1(2H)-pyridinecarboxylic acid, 1,1-dimethylethyl ester (1.262 g, 4.08 mmol) [C.A.S. 286961-14-6], Pd(PPh3)4 (0.072 g, 0.062 mmol) and K2CO3 (3.5 ml, aqueous sat. solution) in 1,4-dioxane (7 ml). The reaction mixture was heated at 150° C. under microwave irradiation for 10 min. After cooling, the mixture was diluted with water and extracted with Et2O. The organic phase was separated, dried (Na2SO4) and concentrated in vacuo. The crude product was purified by column chromatography (silica gel; Heptane/EtOAc 90/10 to 80/2 as eluent). The desired fractions were collected and concentrated in vacuo to give a residue that was triturated with Et2O to yield intermediate D52 (0.233 g, 22%).

reactant | 2-Bromo-1,4-difluoro-3-methoxy-benzene | 3.139 mmol, 0.7 g | BrC1=C(C=CC(=C1OC)F)F | C7H5BrF2O
reactant | 3,6-dihydro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1(2H)-pyridinecarboxylic acid, 1,1-dimethylethyl ester | 4.08 mmol, 1.262 g | CC1(OB(OC1(C)C)C=1CCN(CC1)C(=O)OC(C)(C)C)C | C16H28BNO4
reactant | K2CO3 | 3.5 ml | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 7 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.062 mmol, 0.072 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(3,6-Difluoro-2-methoxy-phenyl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=C(C(=CC=C1F)F)OC | C17H21F2NO3
